US04036960
Preparation of 2,2-dimethyl-1,3-benzoxazin-4-one
A 500-ml flask was charged with 250 ml of chloroform, 27.4 g (0.2 mol) of salicylamide, 23.2 g (0.4 mol) of acetone and 2.7 g of toluene sulfonic acid monohydrate. The flask was equipped with a Soxhlet extraction vessel containing 36.7 g of molecular sieves (Linde Type 3A, 1/16 inch) in the thimble. The reaction mixture was refluxed for 24 hours. Then fresh sieves were placed in the Soxhlet and 10 g of acetone was added to the reaction mixture. Reflux was continued for 24 hours.

reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
reactant | salicylamide | 0.2 mol, 27.4 g | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | toluene sulfonic acid monohydrate | 2.7 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
solvent | acetone | 10 g | CC(=O)C | C3H6O
solvent | acetone | 0.4 mol, 23.2 g | CC(=O)C | C3H6O
product | 2,2-dimethyl-1,3-benzoxazin-4-one | CC1(OC2=C(C(N1)=O)C=CC=C2)C | C10H11NO2
